US07435837B2
Treatment of 4-chloro-2-methoxyphenol (30.0 g, 0.19 mol) with sodium hydride (9.1 g, 0.23 mol, 60 wt. %) and allyl bromide (27.46 g, 0.23 mol) followed by treatment of the resultant allyl ether in refluxing mesitylene generally according to the procedure described for Intermediate 8 gave 2-allyl-4-chloro-6-methoxyphenol as a yellow oil. Treatment of 2-allyl-4-chloro-6-methoxyphenol with sodium hydride (7.08 g, 0.177 mol, 60 wt. %) and benzyl bromide (30.27 g, 0.177 mol) generally according to the procedure described for Intermediate 13 provided 1-allyl-2-(benzyloxy)-5-chloro-3-methoxybenzene as a pale yellow oil. Treatment of the olefin (35.5 g, 0.123 mol) of with AD-mix-α (132.0 g) generally according to the procedure described for Intermediate 2 gave 35 g (54%) of (±)-3-[2-(benzyloxy)-5-chloro-3-methoxyphenyl]propane-1,2-diol as a white solid. mp. 65-68° C. Anal. calcd. for C17H19ClO4: C, 63.26; H, 5.93. Found: C, 65.29; H, 6.23.

reactant | 4-chloro-2-methoxyphenol | 0.19 mol, 30.0 g | ClC1=CC(=C(C=C1)O)OC | C7H7ClO2
reactant | sodium hydride | 0.23 mol, 9.1 g | [H-].[Na+]
reactant | allyl bromide | 0.23 mol, 27.46 g | C(C=C)Br | C3H5Br
reactant | allyl ether | C(C=C)OCC=C | C6H10O
reactant | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 2-allyl-4-chloro-6-methoxyphenol | C(C=C)C1=C(C(=CC(=C1)Cl)OC)O | C10H11ClO2
